US09193741B2
Synthesis of 7-ethoxy-2-(4-fluorophenyl)-5-(methylthio)thiazolo[5,4-d]pyrimidine
To a solution of Na (2.0 mg, 0.08 mmol) in ethanol (1 ml) was added 2-(4-fluorophenyl)-5,7-bis(methylthio)thiazolo[5,4-d]pyrimidine (50 mg, 0.15 mmol). The reaction mixture was heated at 80° C. for 3 hours. After cooling, the mixture was neutralized with 1N HCl and the solvent was removed under reduced pressure. The crude residue was redissolved in ethyl acetate, extracted with brine and dried over Na2SO4. After removing the solvents in vacuo, the residue was purified by flash chromatography on silica (EtOAc/Hex 1:50), yielding the title compound as a white solid (30 mg, 60%).

reactant | 2-(4-fluorophenyl)-5,7-bis(methylthio)thiazolo[5,4-d]pyrimidine | 0.15 mmol, 50 mg | FC1=CC=C(C=C1)C=1SC=2N=C(N=C(C2N1)SC)SC | C13H10FN3S3
reactant | HCl | 1N | Cl | ClH
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | 7-ethoxy-2-(4-fluorophenyl)-5-(methylthio)thiazolo[5,4-d]pyrimidine | 30 mg, 60% | C(C)OC=1C2=C(N=C(N1)SC)SC(=N2)C2=CC=C(C=C2)F | C14H12FN3OS2
